US04906634
4-[4-Amino-3-methylphenoxy]-1-butylpiperidine
In a manner similar to Preparation 44 react 1-butyl-4-(3-methyl-4-nitrophenoxy)piperidine with tin(II) chloride dihydrate in ethanol to obtain the title compound.

reactant | 1-butyl-4-(3-methyl-4-nitrophenoxy)piperidine | C(CCC)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C16H24N2O3
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-Amino-3-methylphenoxy]-1-butylpiperidine | NC1=C(C=C(OC2CCN(CC2)CCCC)C=C1)C | C16H26N2O
